### ISSUE TITLE
use `chromaticCardinal` instead of `chromaticNumber` for larger cardinalities

### ISSUE THREAD

**Issue by mo271** [google-deepmind/formal-conjectures#2010]
### Describe the misformalization

https://github.com/google-deepmind/formal-conjectures/blob/9e2924a40f8abb8d4e12393d0ec08fcbf91b35ef/FormalConjectures/ErdosProblems/1067.lean#L56
and 
https://github.com/google-deepmind/formal-conjectures/blob/9e2924a40f8abb8d4e12393d0ec08fcbf91b35ef/FormalConjectures/ErdosProblems/1068.lean#L35
are trivially true, because the definition of chromaticNumber takes values in `ℕ∞` and can't handle larger cardinalities correctly. 

### Trivial proof/disproof

```lean
example (n : ℕ∞) : n ≤ aleph 1 := by
  have h0 : n ≤ aleph 0 := by
    simp_all only [aleph_zero, ofENat_le_aleph0]
  have : aleph 0 ≤ aleph 1 := by
    convert le_of_lt <| Cardinal.aleph0_lt_aleph_one
    exact aleph_zero
  exact Preorder.le_trans ↑n (ℵ_ 0) (ℵ_ 1) h0 this
```

### Suggested fix
Use `chromaticCardinal` instead

### Choose either option
- [x] I plan on working on this issue
- [ ] This issue is up for grabs: I would like to see this misformalization fixed by somebody else
